* source OPERATIONAL AMPLIFIER
I_I5         N00428 N01398 DC 9.395958uAdc  
C_Cl         0 N01118  2.33p  TC=0,0 
C_Cc         N01018 N01118  0.05p  TC=0,0 
V_Vdd         N00428 0 2.79Vdc
V_Vss         0 N01361 2.79Vdc
M_M8         N01398 N01398 N01361 N01361 nfet  
+ L=1e-6  
+ W=9.0173e-7         
M_M1         N05145 0 N01219 N01219 nfet  
+ L=2e-6  
+ W=6e-7         
M_M2         N01018 N00417 N01219 N01219 nfet  
+ L=2e-6  
+ W=6e-7         
M_M5         N01219 N01398 N01361 N01361 nfet  
+ L=1e-6  
+ W=9.0173e-7         
M_M7         N01118 N01398 N01361 N01361 nfet  
+ L=1e-6  
+ W=1.5626e-5         
M_M3         N05145 N05145 N00428 N00428 pfet  
+ L=1e-6  
+ W=1.6824e-7         
M_M4         N01018 N05145 N00428 N00428 pfet  
+ L=1e-6  
+ W=1.6824e-7         
M_M6         N01118 N01018 N00428 N00428 pfet  
+ L=1e-6  
+ W=5.8309e-6         
V_V1         N00417 0  
+PULSE 0 1 0 1n 1n 20u 40u
